US06635655B1
2-Cyanomethoxy-3-methylbenzaldehyde
A mixture of 2-hydroxy-3-methylbenzaldehyde (10.2 g, 75.0 mmoles, Aldrich), bromoacetonitrile (5.70 mL, 82.5 mmoles), and potassium carbonate (11.4 g, 82.5 mmoles) in DMF (150 mL) is heated to 55° C. for 3 hours, cooled, then diluted with ether. The mixture is washed with distilled water, saturated NaCl solution, then the organic layer dried over MgSO4 and concentrated to give the title compound as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 10.20 (s, 1H), 7.70 (d, 1H), 7.53 (d, 1H), 7.29 (m, 1H), 4.81 (s, 2H), 2.42 (s, 3H).

reactant | 2-hydroxy-3-methylbenzaldehyde | 75.0 mmoles, 10.2 g | OC1=C(C=O)C=CC=C1C | C8H8O2
reactant | bromoacetonitrile | 82.5 mmoles, 5.70 mL | BrCC#N | C2H2BrN
reactant | potassium carbonate | 82.5 mmoles, 11.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 2-Cyanomethoxy-3-methylbenzaldehyde | C(#N)COC1=C(C=O)C=CC=C1C | C10H9NO2
